US05854268
2. (3R)-3-[(4-Fluorobenzylsulfonyl)methyl)pyrrolidine
Using a similar method to that described in Example 93, step 2, (3R)-1-(tert-butoxycarbonyl)-3-[(4-fluorobenzylsulphonyl)-methyl]pyrrolidine (0.6465 g, 1.81 mmol) was reacted with trifluoroacetic acid (2ml) in dichloromethane (6 ml) to give, after work up, 0.4755 g of the title compound as a white solid, which was used without further purification. δH (360 MHz, CDCl3) 1.55 (1H, m), 2.15 (1H, m), 2.60-2.73 (2H, m), 2.90-3.00 (4H, m), 3.30 (1H, m), 4.21 (2H, s), 7.11 (2H, t, J=8.6 Hz), 7.37-7.41 (2H, m).

reactant | (3R)-1-(tert-butoxycarbonyl)-3-[(4-fluorobenzylsulphonyl)-methyl]pyrrolidine | 1.81 mmol, 0.6465 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)CS(=O)(=O)CC1=CC=C(C=C1)F | C17H24FNO4S
reactant | trifluoroacetic acid | 2ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (3R)-3-[(4-Fluorobenzylsulfonyl)methyl)pyrrolidine | FC1=CC=C(CS(=O)(=O)C[C@H]2CNCC2)C=C1 | C12H16FNO2S
